US07807690B2
(1b) 1-Bromo-2-chloromethyl-4-nitrobenzene
To a mixture of (2-bromo-5-nitrophenyl)methanol (6.32 g) and THF (150 mL) there were added diisopropylethylamine (5.21 mL) and methanesulfonyl chloride (2.32 mL) dropwise in that order at −10° C. under a nitrogen atmosphere. The mixture was stirred overnight at room temperature, and then ethyl acetate (400 mL) and water (200 mL) were added. The mixture was sufficiently shaken, and then the organic layer was separated oft washed with water (200 mL) and saturated aqueous sodium chloride (200 mL) in that order, and dried over anhydrous magnesium sulfate. The mixture was filtered to obtain a filtrate and the solvent in the filtrate was distilled off under reduced pressure to obtain the target compound (7.35 g) as a brown solid, which was used without purification as starting material for the following reaction (1c).

reactant | (2-bromo-5-nitrophenyl)methanol | 6.32 g | BrC1=C(C=C(C=C1)[N+](=O)[O-])CO | C7H6BrNO3
reactant | THF | 150 mL | C1CCOC1 | C4H8O
reactant | diisopropylethylamine | 5.21 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methanesulfonyl chloride | 2.32 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | water | 200 mL | O | H2O
solvent | ethyl acetate | 400 mL | C(C)(=O)OCC | C4H8O2
product | 1-Bromo-2-chloromethyl-4-nitrobenzene | 7.35 g | BrC1=C(C=C(C=C1)[N+](=O)[O-])CCl | C7H5BrClNO2
